US06080773
To a stirred solution of 0.6 g of 2-[2-(1,2-benzisoxazol-3-yl]-a-methylbenzyl alcohol and 0.65 g of triphenylphosphine in 10 ml tetrahydrofuran at 0° C. was added 0.39 ml of diethyl azodicarboxylate followed by a solution of 0.54 ml of diphenylphosphoryl azide in 5 ml of tetrahydrofuran. The solution was warmed to room temperature and stirred for 1.5 h. The reaction was evaporated and purified by flash chromatography eluting with 1:1 toluene-heptane to yield 0.27 g of 3-[2-(1-azidoethyl)-phenyl]-1,2-benzisoxazole as a colourless gum, 1H-NMR (200 MHz, CDCl3) dH 5.10 (CHN3).

reactant | 2-(1,2-benzisoxazol-3-yl]-a-methylbenzyl alcohol | O1N=C(C2=C1C=CC=C2)C2=C(C(C)O)C=CC=C2 | C15H13NO2
reactant | triphenylphosphine | 0.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.39 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 0.54 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[2-(1-azidoethyl)-phenyl]-1,2-benzisoxazole | 0.27 g | N(=[N+]=[N-])C(C)C1=C(C=CC=C1)C1=NOC2=C1C=CC=C2 | C15H12N4O
